US05238939
A mixture of 34,8 g of 3,4-dimethoxybenzeneethanol and 32 g of crude 1-(4-methylpiperazinyl)pentane-3-one in 400 ml of dioxane, which is saturated with anhydrous hydrochloric acid, was stirred at ambient temperature for 24 h. After addition of water the mixture was extracted with dichloromethane. The organic phase was washed, dried and evaporated to yield 41,5 g (68,5%) of crude 1-[2-(1-ethyl-3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)ethyl]-4-methylpiperazine.

reactant | 3,4-dimethoxybenzeneethanol | 34,8 g | COC=1C=C(C=CC1OC)CCO | C10H14O3
reactant | 1-(4-methylpiperazinyl)pentane-3-one | 32 g | CN1CCN(CC1)CCC(CC)=O | C10H20N2O
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(1-ethyl-3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)ethyl]-4-methylpiperazine | 41,5 g, 68,5% | C(C)C1(OCCC2=C1C=C(C(=C2)OC)OC)CCN2CCN(CC2)C | C20H32N2O3
